US09371281B2
To a solution of sodium hydroxide (0.1 g, 2.5 mmol) and 50% aqueous hydroxyl amine (1 mL) was added 1-(4-difluoromethoxy-phenylmethyl)-1H-indole-6-carboxylic acid methyl ester (0.14 g, 0.4 mmol) dissolved in THF/MeOH (2 mL, 1:1). After stirring 3 hr at room temperature, the solution was diluted with water (4 mL) and the volatile solvents were removed in vacuo. The solution was then neutralized to pH=7-8 with 1N HCl. The resulting precipitate was isolated by filtration to provide 1-(4-difluoromethoxy-phenylmethyl)-1H-indole-6-carboxylic acid hydroxyamide as a white powder (0.1 g, 75% yield). 1H NMR (400 MHz, DMSO) δ 11.13 (s, 1H), 8.92 (s, 1H), 7.96 (s, 1H), 7.67 (d, 1H, J=3.1 Hz), 7.59 (d, 1H, J=8.0 Hz), 7.45 (d, 1H, J=8.6 Hz), 7.27 (d, 2H, J=8.6 Hz), 7.17 (d, 1H, J=18 Hz), 7.13 (d, 2H, J=8.6 Hz), 6.55 (d, 1H, J=3.1 Hz), 5.47 (s, 2H).

reactant | sodium hydroxide | 2.5 mmol, 0.1 g | [OH-].[Na+]
reactant | hydroxyl amine | 1 mL | ON | H3NO
reactant | 1-(4-difluoromethoxy-phenylmethyl)-1H-indole-6-carboxylic acid methyl ester | 0.4 mmol, 0.14 g | COC(=O)C1=CC=C2C=CN(C2=C1)CC1=CC=C(C=C1)OC(F)F | C18H15F2NO3
solvent | THF MeOH | 2 mL | C1CCOC1.CO
solvent | water | 4 mL | O | H2O
product | 1-(4-difluoromethoxy-phenylmethyl)-1H-indole-6-carboxylic acid hydroxyamide | 0.1 g, 75% yield | ONC(=O)C1=CC=C2C=CN(C2=C1)CC1=CC=C(C=C1)OC(F)F | C17H14F2N2O3
